US03996233
a. 6-Amino-4-butylamino-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester
177.9 g. of 4-butylamino-6-chloro-2-methyl-5-nitronicotinic acid ethyl ester (0.5 Mol.) and 500 ml. of methanol are heated in an autoclave together with 300 ml. of aqueous ammonia (30%) at about 60° for 10 hours. After this time, the solvent is distilled off and the residual 6-amino-4-butylamino-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester is recrystallized from methanol, yield: 135 g., m.p. 98°-99°.

reactant | 4-butylamino-6-chloro-2-methyl-5-nitronicotinic acid ethyl ester | 0.5 Mol | C(C)OC(C1=C(N=C(C(=C1NCCCC)[N+](=O)[O-])Cl)C)=O | C13H18ClN3O4
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 6-Amino-4-butylamino-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester | NC1=C(C(=C(C(=N1)C)C(=O)OCC)NCCCC)[N+](=O)[O-] | C13H20N4O4
